US06274739B1
With efficient stirring, 10 g (0.083 mol) of 1,3-benzoxazole (>99% pure), together with 100 ml of POCl3 and 0.2 g of iron (III) chloride (dry), were heated to 100° C. At this temperature, chlorine gas was introduced under the surface of the liquid. GC control of the reaction showed that initially 2-chlorobenzoxazole was formed which, with further substitution, then reacted to give 2,6-dichlorobenzoxazole. Once all of the starting material had been consumed, the reaction was terminated. According to GC analysis, 21.5% of 2-chlorobenzoxazole and 71% of 2,6-dichlorobenzoxazol had been formed. The crude mixture was worked up by distillation. POCl3 and 2-chlorobenzoxazole were collected in a first fraction and could be employed directly for a further batch. The second fraction yielded 11.0 g of 2,6-dichlorobenzoxazole (GC>99% pure) (>70% of theory). Taking into account the recycling of the 2-chlorobenzoxazole, a total yield of >92% of theory was obtained.

reactant | 1,3-benzoxazole | 0.083 mol, 10 g | O1C=NC2=C1C=CC=C2 | C7H5NO
reactant | chlorine | ClCl | Cl2
reactant | 2-chlorobenzoxazole | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
catalyst | iron (III) chloride | 0.2 g | [Fe](Cl)(Cl)Cl
solvent | POCl3 | 100 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2,6-dichlorobenzoxazole | ClC=1OC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NO
